US07514449B2
Trans-4-(morpholin-4-ylcarbonyl)cyclohexanecarboxylic acid
Methyl trans-4-(morpholin-4-ylcarbonyl)cyclohexanecarboxylate (860 mg) obtained in Reference Example 82(1) is dissolved in methanol (40 ml), and thereto is added 4 N aqueous sodium hydroxide solution (1.68 ml). The mixture is then stirred at room temperature for 18 hours. The reaction solution is concentrated under reduced pressure. The residue is diluted with ice-water, neutralized with 10% hydrochloric acid and extracted with chloroform. The organic layer is dried over sodium sulfate and the solvent is concentrated under reduced pressure to give title compound (638 mg).

reactant | Methyl trans-4-(morpholin-4-ylcarbonyl)cyclohexanecarboxylate | 860 mg | N1(CCOCC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C13H21NO4
reactant | sodium hydroxide | 4 N, 1.68 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | Trans-4-(morpholin-4-ylcarbonyl)cyclohexanecarboxylic acid | 638 mg | N1(CCOCC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C12H19NO4
